US05958942
4,5-Dihydro-4-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a suspension of 10.59 g (30.3 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine and 5.09 g (39.4 mmol) of diisopropylethylamine in 200 ml of acetonitrile was added 4.15 g (36.3 mmol) of 4-aminomethylpiperidine. The mixture was stirred for 20 hours at room temperature. To the reaction mixture was added dropwise 15.87 g (72.7 mmol) of di-tert-butyl dicarbonate, and the mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added methylene chloride. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=20:1), and treated with ethyl acetate and n-hexane to afford 9.10 g (78.1%, a pale yellow solid) of the desired compound.

reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 30.3 mmol, 10.59 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | diisopropylethylamine | 39.4 mmol, 5.09 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-aminomethylpiperidine | 36.3 mmol, 4.15 g | NCC1CCNCC1 | C6H14N2
reactant | di-tert-butyl dicarbonate | 72.7 mmol, 15.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C20H24N4O4
